US07348344B2
Step 1: Ethyl(2E)-2-cyano-2-butenoate
2 cm3 of piperidine are added dropwise to a solution of 64 cm3 of ethyl cyanoacetate and 34 cm3 of acetaldehyde in 80 cm3 of acetic acid. After stirring for 20 hours at ambient temperature, the reaction mixture is diluted with 200 cm3 of water and extracted with ether (3×200 cm3). The combined organic phases are washed with water and then dried over sodium sulphate and evaporated. Distillation under reduced pressure (97° C./10 torr) of the residue obtained allows 40.44 g of the expected product to be obtained.

reactant | piperidine | 2 cm3 | N1CCCCC1 | C5H11N
reactant | ethyl cyanoacetate | 64 cm3 | C(#N)CC(=O)OCC | C5H7NO2
reactant | acetaldehyde | 34 cm3 | C(C)=O | C2H4O
solvent | acetic acid | 80 cm3 | C(C)(=O)O | C2H4O2
solvent | water | 200 cm3 | O | H2O
product | Ethyl(2E)-2-cyano-2-butenoate | 40.44 g | C(#N)/C(/C(=O)OCC)=C\C | C7H9NO2
